US08071625B2
To a solution of N-(2-chlorobenzyl)-3-hydroxy-2,2-dimethylpropanamide (0.50 g, 2.07 mmol) in THF (5 mL) were added phthalimide (0.457 g, 3.10 mmol, 1.5 equiv.) and PPh3 (0.813 g, 3.10 mmol, 1.5 equiv.). DIAD (600 μL, 3.10 mmol, 1.5 equiv.) was added dropwise into the reaction mixture. The resulting mixture was stirred overnight. LC/MS indicated that starting material was consumed. The reaction mixture was concentrated. The resulting residue was purified on silica gel column a mixture of hexanes and ethyl acetate to give N-(2-chlorobenzyl)-3-(1,3-dioxoisoindolin-2-yl)-2,2-dimethylpropanamide (0.50 g, 65%). LRMS (M+H+) m/z 371.1.

reactant | N-(2-chlorobenzyl)-3-hydroxy-2,2-dimethylpropanamide | 2.07 mmol, 0.50 g | ClC1=C(CNC(C(CO)(C)C)=O)C=CC=C1 | C12H16ClNO2
reactant | phthalimide | 3.10 mmol, 0.457 g, 1.5 equiv. | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | PPh3 | 3.10 mmol, 0.813 g, 1.5 equiv. | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.10 mmol, 600 μL, 1.5 equiv. | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N-(2-chlorobenzyl)-3-(1,3-dioxoisoindolin-2-yl)-2,2-dimethylpropanamide | 0.50 g, 65% | ClC1=C(CNC(C(CN2C(C3=CC=CC=C3C2=O)=O)(C)C)=O)C=CC=C1 | C20H19ClN2O3
